US07030128B2
2-Bromo-6-methoxymethylpyridine (0.27 g, 1.34 mmol; prepared according to Shawcross et al. in J. Heterocyclic Chem., 1993, 33(2), 563-565) was coupled to 3-tributylstannyl-7-trifluoromethylimidazo[1,2-α]pyrimidine (1.34 mmol) by the method of Example 1. Purification by chromatography on silica gel eluting with isohexane on a gradient of ethyl acetate (20-100%) and trituration with isohexane gave 3-(6-methoxymethylpyridin-2-yl)-7-trifluoromethylimidazo[1,2-α]pyrimidine (15 mg) as a yellow solid: δH (400 MHz, CDCl) 3.54 (3H, s), 4.68 (2H, s), 7.34 (1H, d, J 7), 7.39 (1H, d, J 7), 7.73 (1H, d, J 7), 7.84 (1H, t, J 7), 8.52 (1H, s), 10.51 (1H, d, J 7); m/z (ES+) 309 (M++H).

reactant | 2-Bromo-6-methoxymethylpyridine | 1.34 mmol, 0.27 g | BrC1=NC(=CC=C1)COC | C7H8BrNO
reactant | 3-tributylstannyl-7-trifluoromethylimidazo[1,2-α]pyrimidine | 1.34 mmol | C(CCC)[Sn](C1=CN=C2N1C=CC(=N2)C(F)(F)F)(CCCC)CCCC
product | 3-(6-methoxymethylpyridin-2-yl)-7-trifluoromethylimidazo[1,2-α]pyrimidine | 15 mg | COCC1=CC=CC(=N1)C1=CN=C2N1C=CC(=N2)C(F)(F)F | C14H11F3N4O
